US08975282B2
Step 5) N-(4-((2-(cyclobutanecarboxamido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of N-(4-((2-aminopyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (100 mg, 0.241 mmol) in THF/DMF (15 mL/1 mL) was added Et3N (0.06 mL, 0.482 mmol). The suspension was cooled to 0° C., then a solution of cyclobutanecarbonyl chloride (31.0 mg, 0.265 mmol) in THF (5 mL) was added to the reaction system drop wise over 1 hour. The reaction was stirred at rt for 5 hours, and then diluted with EtOAc (20 mL). The resulted mixture was washed with water (25 mL×3), followed by washing with brine (25 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/EtOAc/MeOH (v/v)=100/25/1) to give the title compound as a white solid (30 mg, 25%).

reactant | N-(4-((2-aminopyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.241 mmol, 100 mg | NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C23H21N5O3
reactant | Et3N | 0.482 mmol, 0.06 mL | CCN(CC)CC | C6H15N
reactant | cyclobutanecarbonyl chloride | 0.265 mmol, 31.0 mg | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | THF DMF | 15 mL | C1CCOC1.CN(C)C=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-(4-((2-(cyclobutanecarboxamido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 30 mg, 25% | C1(CCC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C28H27N5O4
